US04925591
In pyridine was dissolved 5 g of dodecyl p-hydroxybenzoate, and a solution of 5 g of p-acetoxybenzoic acid chloride in chloroform was added dropwise to the solution and the mixture was stirred at room temperature for 4 hours. Water was added to the thus-obtained solution, the mixture was extracted with chloroform, and the extract was washed with a 0.5N aqueous solution of hydrochloric acid, a saturated aqueous solution of sodium chloride, a saturated aqueous solution of NaHCO3 and a saturated aqueous solution of sodium chloride in succession, dehydrated on anhydrous magnesium sulfate and concentrated. The concentrate was recrystallized from a mixed solvent of n-hexane and ethyl acetate to obtain 3.18 g dodecyl 4-(4-acetoxybenzoyloxy)benzoate. The obtained ester was dissolved in a mixed solvent of tetrahydrofuran and methanol at a volume ratio of 10/1, 7 ml of a 1N aqueous solution of lithium hydroxide was added to the solution, and the obtained mixture was stirred at room temperature for 1 hour, diluted with ethyl acetate and washed with a saturated aqueous solution of sodium chloride. Then, the liquid was dried on anhydrous magnesium sulfate and concentrated, and the concentrate was recrystallized from a liquid mixture of n-hexane and ethyl acetate to obtain 2.22 g of dodecyl 4-(4-hydroxybenzoyloxy)benzoate.

reactant | dodecyl p-hydroxybenzoate | 5 g | OC1=CC=C(C(=O)OCCCCCCCCCCCC)C=C1 | C19H30O3
reactant | p-acetoxybenzoic acid chloride | 5 g | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | Water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | dodecyl 4-(4-acetoxybenzoyloxy)benzoate | 3.18 g | C(C)(=O)OC1=CC=C(C(=O)OC2=CC=C(C(=O)OCCCCCCCCCCCC)C=C2)C=C1 | C28H36O6
